US06914058B2
N-{1-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-1H-1,2,3-triazol-4-ylmethyl}-pyrazine-2-carboxamide
A solution of pyrazine-2-carboxylic acid (127 mg, 1.02 mmol) and DCC (211 mg, 1.02 mmol) in acetonitrile (5 mL) was added to a stirring solution of C-[1-(3-fluoro-4-thiomorpholin-4-yl-phenyl)-1H-[1,2,3]triazol-4-yl]-methylamine (200 mg, 0.68 mmol), obtained in Example 19, in dry acetonitrile (10 mL) and allowed to stir at room temperature for 6 h. The reaction mixture was then poured into ice-cooled water and extracted with ethyl acetate (20 mL×2). The organic portion was washed with water followed by brine and dried over sodium sulfate. Upon concentration and purification by silica gel column chromatography (acetone/chloroform, 15:85) the title compound was obtained (245 mg, 90%). Mp. 216-218° C.

reactant | pyrazine-2-carboxylic acid | 1.02 mmol, 127 mg | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | DCC | 1.02 mmol, 211 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | C-[1-(3-fluoro-4-thiomorpholin-4-yl-phenyl)-1H-[1,2,3]triazol-4-yl]-methylamine | 0.68 mmol, 200 mg | FC=1C=C(C=CC1N1CCSCC1)N1N=NC(=C1)CN | C13H16FN5S
reactant | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-{1-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-1H-1,2,3-triazol-4-ylmethyl}-pyrazine-2-carboxamide | FC=1C=C(C=CC1N1CCSCC1)N1N=NC(=C1)CNC(=O)C1=NC=CN=C1 | C18H18FN7OS
